US07459562B2
A) (E)-Dimethyl 2-(3-(phenylamino)allylidene)malonate
To a solution of 2-(3-methoxyallylidene)malonic acid dimethyl ester (Acros Organics, 200 mg, 1.0 mmol) in THF (2 mL) at rt was added aniline (300 mg, 3.2 mmol) and the reaction mixture was heated at 60° C. for 8.5 h. Purification of the reaction mixture by preparative HPLC provided the desired product (150 mg, 57%) as a yellow solid. 1H NMR (DMSO-d6) δ 10.16 (d, 1H, J=12.7 Hz), 8.06 (t, 1H, J=12.7 Hz), 7.74 (d, 1H, J=12.7 Hz), 7.30 (t, 2H, J=8.7 Hz), 7.16 (d, 2H, J=7.7 Hz), 6.98 (t, 1H, J=7.7 Hz), 6.35 (t, 1H, J=12.1 Hz), 3.69 (s, 3H), 3.65 (s, 3H).

reactant | 2-(3-methoxyallylidene)malonic acid dimethyl ester | 1.0 mmol, 200 mg | COC(C(C(=O)OC)=CC=COC)=O | C9H12O5
reactant | aniline | 3.2 mmol, 300 mg | NC1=CC=CC=C1 | C6H7N
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | (E)-Dimethyl 2-(3-(phenylamino)allylidene)malonate | 150 mg, 57% | C1(=CC=CC=C1)N/C=C/C=C(C(=O)OC)C(=O)OC | C14H15NO4
